US04220646
2-Amino-5-methylpyridine (21.6 g.) is added to a suspension of pyrazine-2,3-dicarboxylic anhydride (30 g.) in acetic anhydride (300 cc.) at a temperature of about 25° C. The reaction mixture is stirred for 10 minutes at this temperature and then heated at a temperature of about 100° C. for 15 minutes. After cooling to a temperature of about 50° C., diisopropyl ether (600 cc.) is added and cooling is continued to 5° C. After stirring for one hour at this temperature, the insoluble product is filtered off and washed with diisopropyl ether (3×50 cc.). After drying, 6-(5-methylpyrid-2-yl)-5,7-dioxo-6,7-dihydro-5H-pyrrolo-[3,4-b]pyrazine (32 g.), which melts at 240° C., is obtained.

reactant | 2-Amino-5-methylpyridine | 21.6 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | pyrazine-2,3-dicarboxylic anhydride | 30 g | N1=C2C(=NC=C1)C(=O)OC2=O | C6H2N2O3
reactant | diisopropyl ether | 600 cc | C(C)(C)OC(C)C | C6H14O
solvent | acetic anhydride | 300 cc | C(C)(=O)OC(C)=O | C4H6O3
product | 6-(5-methylpyrid-2-yl)-5,7-dioxo-6,7-dihydro-5H-pyrrolo-[3,4-b]pyrazine | 32 g | CC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1=O)=O | C12H8N4O2
